US07977344B2
8-(Methoxy)-2-{[2-(methyloxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-Purin-6-amine
8-Bromo-2-{[2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (1.4489 g) was suspended in dry methanol (11.5 mL) and then treated with 25% (w/v) sodium methoxide in methanol (2.5 mL). The reaction mixture was heated to reflux (65° C., externally) were upon a solution was obtained. After 4 hours the reaction mixture was concentrated under reduced pressure and saturated aqueous ammonium chloride (100 mL) was added. This was then extracted with ethyl acetate (100 mL, twice). The organic layers was separated, combined and washed with brine (100 mL). The organic layer was separated and then dried by passing through a hydrophobic frit. This was then evaporated under reduced pressure to give the title compound as a white solid (1.2032 g) after placing under high vacuo, overnight.

reactant | 8-Bromo-2-{[2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.4489 g | BrC=1N(C2=NC(=NC(=C2N1)N)OCCOC)C1OCCCC1 | C13H18BrN5O3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 11.5 mL | CO | CH4O
solvent | methanol | 2.5 mL | CO | CH4O
product | 8-(Methoxy)-2-{[2-(methyloxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-Purin-6-amine | 1.2032 g | COC=1N(C2=NC(=NC(=C2N1)N)OCCOC)C1OCCCC1 | C14H21N5O4
